US04395577
Preparation of N-(2-methyl-5-nitrobenzyl)acrylamide
Acrylamide (7.10 g; 0.10 mol) is added in small increments to a stirred solution of p-nitrotoluene (1.85 g; 0.05 mol) and paraformaldehyde (1.6 g; 0.05 mol) in concentrated sulfuric acid (60 ml). This reaction mixture is stirred for 24 hours at room temperature and then poured onto ice. A precipitate results which is collected and recrystallized from ethyl acetate to give 4.4 g of product as colorless crystals. This product has the following characteristics: melting point of 155° to 158.5° C.; i.r. 3230, 1620, 1655, 1660 cm-1 (sh).

reactant | Acrylamide | 0.10 mol, 7.10 g | C(C=C)(=O)N | C3H5NO
reactant | p-nitrotoluene | 0.05 mol, 1.85 g | [N+](=O)([O-])C1=CC=C(C=C1)C | C7H7NO2
reactant | paraformaldehyde | 0.05 mol, 1.6 g | C=O | CH2O
solvent | sulfuric acid | 60 ml | S(O)(O)(=O)=O | H2O4S
product | N-(2-methyl-5-nitrobenzyl)acrylamide | 4.4 g | CC1=C(CNC(C=C)=O)C=C(C=C1)[N+](=O)[O-] | C11H12N2O3
